US04336264
1-(2-CHLOROBENZOYL)-3-(3-(4-FLUOROPHENYL)-5-ISOXAZOLYL)UREA
3-(4-Fluorophenyl)-5-aminoisoxazole (250 g.) was combined with 300 g. of 2-chlorobenzoyl isocyanate in 50 ml. of ethyl acetate. The reaction mixture was stirred overnight (about 17 hours) and the resulting solid was filtered, washed with ethanol, ether, and then dried, m.p., 200°-202° C.

reactant | 3-(4-Fluorophenyl)-5-aminoisoxazole | 250 g | FC1=CC=C(C=C1)C1=NOC(=C1)N | C9H7FN2O
reactant | 2-chlorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-CHLOROBENZOYL)-3-(3-(4-FLUOROPHENYL)-5-ISOXAZOLYL)UREA | ClC1=C(C(=O)NC(=O)NC2=CC(=NO2)C2=CC=C(C=C2)F)C=CC=C1 | C17H11ClFN3O3
